US04266014
(c) 1-(2',2',2'-trifluoroethyl)-3-phenyl-2-pyrazolin-5-one
0.75 Mole (144 g) of benzoylacetic acid ethyl ester and 0.75 mole (126 g) of 2,2,2-trifluoroethylhydrazine hydrate were stirred for 3 hours in 900 ml of boiling acetic acid. The reaction mixture was poured out on 9 l of water. After 1 hour of stirring at room temperature the pyrazolone derivative was filtered and recrystallized from methanol.

reactant | benzoylacetic acid ethyl ester | 0.75 Mole, 144 g | C(C)OC(CC(C1=CC=CC=C1)=O)=O | C11H12O3
reactant | 2,2,2-trifluoroethylhydrazine hydrate | 0.75 mole, 126 g | O.FC(CNN)(F)F
reactant | water | 9 l | O | H2O
reactant | pyrazolone | N1=NC(C=C1)=O | C3H2N2O
solvent | acetic acid | 900 ml | C(C)(=O)O | C2H4O2
product | 1-(2',2',2'-trifluoroethyl)-3-phenyl-2-pyrazolin-5-one | FC(CN1N=C(CC1=O)C1=CC=CC=C1)(F)F | C11H9F3N2O
